Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Altered mental status with increasing confusion, impaired 
ambulation in the setting of recent fall (___) with subdural 
hematomas.   
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of chronic UTI, HLD, HTN, recent fall with 
bilateral subdural hematomas ___, treated at ___) who 
presented to ___ with concern for increasing 
confusion and impaired ambulation over the past 3 days without 
any new reported falls. 

Pt went to ___ after fall, had 7d of keppra, had CT scan 
___, and is due for another scan ___.  Since her fall she 
has been recovering well until the last few days. Very 
independent at baseline. Has not been on aspirin since the 
incident. Repeat head CTs at ___ and ___ show 
bilateral acute on chronic subdural hemorrhages.   

When asked about recent changes in mental status, son relays she 
___ herself", was having a hard time with her new phone, 
difficulty using her fork in her right hand, and noticed some 
changes in ambulation.  Does not require assistance at baseline, 
but was seen shuffling.  Son surmises now she is just shy of her 
cognitive baseline. 

Within admission, patient appeared comfortable and was
coherent, conversive, and continually denied constitutional 
symptoms.  Was treated for UTI with appropriate antibiotics.  
Was seen by ___, OT, and neurosurgery.  ___ and OT expressed 
concern for patient safety with ambulation.  Neurosurgery 
reviewed imaging and saw patient, and saw no need for surgical 
intervention.  Additionally recommended continued physical 
therapy, with outpatient follow up with her neurosurgeon.  
Family was advised and in agreement with the plan to discharge 
to rehab.  
 
Past Medical History:
Breast cancer, double mastectomy 
HLD 
HTN
Gout
GERD    
 
Social History:
___
Family History:
Noncontributory, son states her siblings passed of natural 
causes
in old age. 
 
Physical Exam:
DISCHARGE PHYSICAL EXAM
=======================
Vitals ___:  T98.3 PO  BP138 / 66Lying HR69 RR18 95 Ra  
GENERAL: Very hard of hearing, alert and interactive.  Resting 
comfortably, seen eating breakfast without issue. 
HEENT: PERRL, EOMI. 
NECK: No JVD noted. 
CARDIAC: Regular rate, no murmurs or rubs appreciated.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. Normal pulmonary effort. 
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN:  Soft, non-tender, non-distended.  
EXTREMITIES:  Healing abrasion noted to L shoulder.  Tenderness
to palpation and with ROM L knee, improved from admission.  
NEUROLOGIC: No gross focal deficits, CN2-12 in tact.  Facial
symmetry.  ___ musculoskeletal strength
throughout.  Sensation to light touch in tact.  
MENTAL STATUS:  Coherent, linear thought, normal insight.  Able
to answer questions appropriately once heard adequately.  
Conversing fluently.  

ADMISSION PHYSICAL EXAM 
=======================
Vitals: 
___ 1550 Temp: 98.2 PO BP: 135/65 HR: 58 RR: 16 O2 sat: 99%
O2 delivery: RA 
GENERAL: Alert and interactive.  Very hard of hearing, and
without her glasses.   
HEENT: PERRL, EOMI. 
NECK: No JVD noted. 
CARDIAC: Regular rate, no murmurs or rubs appreciated.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. Normal pulmonary effort. 
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN:  Soft, non-tender, non-distended.  
EXTREMITIES:  Healing abrasion noted to L shoulder.  Tenderness
to palpation and with ROM L knee.  Bilateral LLEs with trace
non-pitting edema.  
NEUROLOGIC: No gross focal deficits, CN2-12 in tact.  Facial
symmetry.  No dysmetria, no dysdiadokinesia, ___ strength
throughout.  Sensation to light touch in tact.  
MENTAL STATUS:  Coherent, linear thought, normal insight.  Able
to answer questions appropriately once heard adequately. 
 
Pertinent Results:
PERTINENT DISCHARGE LABS 
========================
___ 06:51AM BLOOD WBC-6.1 RBC-3.95 Hgb-11.3 Hct-34.0 MCV-86 
MCH-28.6 MCHC-33.2 RDW-13.4 RDWSD-42.2 Plt ___
___ 06:51AM BLOOD Plt ___
___ 06:51AM BLOOD Glucose-102* UreaN-8 Creat-0.5 Na-134* 
K-4.1 Cl-98 HCO3-25 AnGap-11
___ 08:46AM BLOOD Calcium-8.4 Phos-2.6* Mg-1.6

IMAGING
=======
Studies performed include: 
CT Head ___
IMPRESSION: 
1. Bilateral acute on chronic subdural hematomas measuring up to
21 mm on the right and 23 mm on the left.  Associated sulcal
effacement and partial effacement of the left lateral ventricle. 

Baseline size of the right lateral ventricle is not known.  No
shift of midline structures. 
2. Near complete opacification of the right mastoid air cells 
and
partial opacification of the right middle ear cavity, of unknown
chronicity in the absence of comparison exams. 

CXR ___
FINDINGS:   
AP and lateral views of the chest provided. 
There is low lung volumes with bronchovascular crowding and no
focal consolidation, but left basal opacity is suspected and
might potentially represent left lower lobe pneumonia. There is 
no effusion, or pneumothorax identified.  The cardiac
silhouette is top-normal.  Aortic knob calcifications are
visualized other the hilar and mediastinal contours are
unremarkable. Surgical clips are visualized in the bilateral 
axilla. 
  
IMPRESSION:  
Questionable left lower lobe pneumonia 

L KNEE XR ___
IMPRESSION:  
There are moderate degenerative changes in the medial 
compartment with joint space narrowing and spurring.  Prominent 
spurs within the medial and 
patellofemoral compartments are seen.  There is no significant 
knee joint 
effusion.  There is normal osseous mineralization. 

MICROBIOLOGY 
============
URINE CULTURE  Final  

     Organism 1                     ENTEROCOCCUS SPP
        Colony Count                >100,000 CFU/ml

     1. ENTEROCOCCUS SPP, Sensitivity to ampicillin 

BLOOD CULTURES - NGTD 

PERTINENT ADMISSION LABS 
========================
___ 04:55AM BLOOD WBC: 4.3 RBC: 3.84* Hgb: 10.8* Hct: 34.2
MCV: 89 MCH: 28.1 MCHC: 31.6* RDW: 13.5 RDWSD: 44.___ 
___ 04:55AM BLOOD Neuts: 66.9 Lymphs: 16.4* Monos: 14.8*
Eos: 0.7* Baso: 0.5 Im ___: 0.7* AbsNeut: 2.86 AbsLymp: 0.70*
AbsMono: 0.63 AbsEos: 0.03* AbsBaso: 0.02 
___ 04:55AM BLOOD Plt Ct: 195 
___ 04:55AM BLOOD ___: 15.9* PTT: 26.9 ___: 1.5* 
___ 04:55AM BLOOD Glucose: 105* UreaN: 11 Creat: 0.6 Na: 
137
K: 3.9 Cl: 100 HCO3: 25 AnGap: 12 
___ 04:50AM URINE RBC: 1 WBC: 6* Bacteri: NONE Yeast: NONE
Epi: 1 
___ 04:50AM URINE Blood: NEG Nitrite: NEG Protein: 30*
Glucose: NEG Ketone: 10* Bilirub: NEG Urobiln: 2* pH: 6.5 Leuks:
NEG 

 
Brief Hospital Course:
PATIENT SUMMARY 
===============
___ with PMH of chronic UTI, HLD, HTN, recent fall with 
bilateral subdural hematomas ___, treated at ___) who 
presented to ___ with concern for increasing 
confusion and impaired ambulation over the past 3 days without 
any new reported falls. 

Pt went to ___ after fall, had 7d of keppra, had CT scan 
___, and is due for another scan ___. Since her fall she 
has been recovering well until the last few days. Very 
independent at baseline. Has not been on aspirin since the 
incident. Repeat head CTs at ___ and ___ show 
bilateral acute on chronic subdural hemorrhages. 

When asked about recent changes in mental status, son relays she 
___ herself", was having a hard time with her new phone, 
difficulty using her fork in her right hand, and noticed some 
changes in ambulation. Does not require assistance at baseline, 
but was seen shuffling. Son surmises now she is just shy of her
cognitive baseline. 

Within admission, patient appeared comfortable and was coherent, 
conversive, and continually denied constitutional symptoms. Was 
treated for UTI with appropriate antibiotics. Was seen by ___, 
OT, and neurosurgery. ___ and OT expressed concern for patient 
safety with ambulation. Neurosurgery reviewed imaging and saw 
patient, and endorsed progression of chronic subdural hematomas 
without evidence of new bleeding. Saw no need for surgical 
intervention. Additionally recommended continued physical 
therapy, with outpatient follow up with her neurosurgeon. Family 
was advised and in agreement with the plan to discharge to 
rehab. 

TRANSITIONAL ISSUES
===================
[]UTI - Finish 5-day course of ampicillin ___. ___ positive for ampicillin-sensitive enterococcus. Follow up 
with PCP regarding any new or worsening urinary symptoms. 
[]Requires scheduled follow up with neurosurgeon at ___ ___
[]Follow up with PCP

ACUTE ISSUES ADDRESSED 
======================
# Altered mental status, confusion 
# Acute on chronic subdural hemorrhages 
Patient's blood cultures continued to show no growth. Urinary 
tract infection treated as above. Patient's neuro exam continued 
to be normal within admission, however ___ and OT expressed 
concern for impaired balance, safety with ambulation, etc. 
Neurosurgery was re-consulted, reviewed all head CTs, and were 
not concerned for acute bleeding and did not see need for 
surgical intervention. 
- Continue to monitor symptoms closely 
- Attend scheduled follow up/repeat head CT at ___ ___
- Discharge to rehab for continued ___ 
- Continue to hold blood thinners 

#Recent fall 
- Recommending discharge to rehab for continued physical and 
occupational therapy 
- L knee XR demonstrated DJD, negative for fracture 

#Urinary tract infection: Culture growing pan-sensitive 
enterococcus, initially treated with ceftriaxone narrowed to 
ampicillin for planned ___

CHRONIC ISSUES 
==============
#HTN: 
- Continue home lisinopril 

#HLD:
- Continue home rosuvastatin 

#Gout:
- Continue home allopurinol 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Rosuvastatin Calcium 5 mg PO DAILY 

 
Discharge Medications:
1.  Ampicillin 500 mg PO Q6H 
RX *ampicillin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*7 Capsule Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  Lisinopril 10 mg PO DAILY  
4.  Rosuvastatin Calcium 5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary Diagnoses: 
Altered Mental Status 
Chronic Subdural Hematomas secondary to fall sustained in ___
Urinary Tract Infection 

 
Discharge Condition:
Mental Status: Clear and coherent (hard of hearing, but answers 
appropriately once question is heard). 

Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires ___ assistance for safety 
for now. 

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___.  You were brought 
to the ED and admitted to the hospital initially out of concern 
expressed by your family for a three day history of altered 
mental status in the setting of a recent fall (___).  

After your fall you were found to have subdural hematomas.  A 
repeat CT scan of your head was performed, and your chronic 
subdural hematomas were visualized, and there was not concern 
for acute bleeding.   You were also found to have a urinary 
tract infection which was treated with appropriate antibiotics.  
You were seen by physical therapy, occupational therapy, and 
neurosurgery during your admission, and all teams strongly 
recommended that you be discharged to a rehabilitation center.  

You are encouraged to continue to take all your prescribed 
medications including your antibiotics after you leave the 
hospital. You are also encouraged to maintain your scheduled 
follow up with a repeated head CT with your neurosurgeon on 
___, as well to schedule an appointment with your primary 
care physician (PCP).  

We hope you continue to recover well, and wish you the best!  

Warm regards, 
Your ___ Team 
 
Followup Instructions:
___